US07019007B2
Step A: Preparation of (±)-trans-2-[4-(4-chlorobenzyl)piperidin-1-yl]-cyclopentanol
Following General Procedure A, a solution of 4-(4-chlorobenzyl)-piperidine (17.86 g, 85.05 mmol) and 6-oxa-bicyclo[3.1.0]hexane (50 g, 0.6 mol) in EtOH (170 mL) was stirred at 95° C. for 40 hours, allowed to cool to room temperature, and concentrated. The residue was crystallized in hot CH2Cl2 (80 mL), the crystallization mixture was concentrated to half the volume, and kept at 0° C. overnight and filtered, and the precipitate was rinsed with cold hexanes to give the product (18.2 g, 73%) as a tan solid. The mother liquors were concentrated to half the volume, diluted with CH2Cl2 and kept at −10° C. for 1 hour, and the precipitate was rinsed with cold CH2Cl2 and hexanes to give additional product (1.8 g, 7%) as a tan solid: mp 104.1–105.5° C.; IR 3436, 2928 cm−1; 1H NMR δ 1.19–1.75 (m, 8H), 1.81–1.99 (m, 4H), 2.06 (dt, J=2.5, 11.7 Hz, 1H), 2.47 (m, 1H), 2.50 (d, J=7.0 Hz, 2H), 2.90 (m, 1H), 3.07 (m, 1H), 4.10 (m, 1H), 7.06 (m, 2H), 7.23 (m, 2H); 13C NMR δ 21.63, 27.35, 32.01, 32.15, 34.31, 37.87, 42.47, 50.47, 52.97, 75.15, 75.22, 128.27, 130.43, 131.55, 139.04; MS m/z 294 (M+H)+. Anal. (C17H24ClNO.0.1H2O) C, H, N.

reactant | 4-(4-chlorobenzyl)-piperidine | 85.05 mmol, 17.86 g | ClC1=CC=C(CC2CCNCC2)C=C1 | C12H16ClN
reactant | 6-oxa-bicyclo[3.1.0]hexane | 0.6 mol, 50 g | C12CCCC2O1 | C5H8O
solvent | EtOH | 170 mL | CCO | C2H6O
product | (±)-trans-2-[4-(4-chlorobenzyl)piperidin-1-yl]-cyclopentanol | 18.2 g, 73% | ClC1=CC=C(CC2CCN(CC2)[C@H]2[C@@H](CCC2)O)C=C1 | C17H24ClNO
